US04935414
1-(Diphenylmethyl)-3-(2,3-epoxypropoxy)azetidine
37.5 g of diphenylmethylazetidin-3-ol are dissolved at room temperature in a mixture of 250 ml of dimethyl sulphoxide and 150 ml of 5% strength sodium hydroxide solution, 65 ml of epichlorohydrin are added and the mixture is allowed to stand for 3 days at room temperature. The reaction mixture is extracted using 300 ml of methylene chloride, and the organic phase is dried over sodium sulphate and evaporated. The crude product is distilled in vacuo.

reactant | diphenylmethylazetidin-3-ol | 37.5 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N1CC(C1)O | C16H17NO
reactant | epichlorohydrin | 65 ml | C(Cl)C1CO1 | C3H5ClO
solvent | dimethyl sulphoxide | 250 ml | CS(=O)C | C2H6OS
solvent | sodium hydroxide | [OH-].[Na+]
product | 1-(Diphenylmethyl)-3-(2,3-epoxypropoxy)azetidine | C1(=CC=CC=C1)C(N1CC(C1)OCC1CO1)C1=CC=CC=C1 | C19H21NO2
